US08865736B2
N-Hydroxy-thiazole-2-carboxamidine
To a solution of thiazole-2-carbonitrile (0.42 g, 3.80 mmol) in EtOH (20 mL) was added hydroxylamine hydrochloride (0.53 g, 7.60 mmol) and pyridine (0.27 g, 3.40 mmol). The resulting reaction mixture was refluxed for 15 h. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added EtOH and filtered. The filtrate was evaporated under reduced pressure and used as such for the next step (crude yield 0.50 g, 91% crude yield).

reactant | thiazole-2-carbonitrile | 3.80 mmol, 0.42 g | S1C(=NC=C1)C#N | C4H2N2S
reactant | hydroxylamine hydrochloride | 7.60 mmol, 0.53 g | Cl.NO
reactant | pyridine | 3.40 mmol, 0.27 g | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 20 mL | CCO | C2H6O
product | N-Hydroxy-thiazole-2-carboxamidine | ONC(=N)C=1SC=CN1 | C4H5N3OS
